US07018997B2
Step 1: 5,6,7,8-Tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
The 12.7% solution of HCl in ethanol (5.35 mL) and 10% Pd—C (50% wet) (2.5 g) were added to the mixture of [1,2,4]triazolo[1,5-a]pyridin-2-ylamine (2.5 g) in ethanol (72 mL). The reaction mixture was hydrogenated at 400 KPa of H2 for 3 days at room temperature. The mixture was filtered and concentrated under reduced pressure. The residue was treated with saturated potassium carbonate solution and extracted with chloroform. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The title compound was obtained as a pale yellow solid (2.31 g, 90%). 1H-NMR (400 MHz, CDCl3) δ 1.88–1.94 (m, 2H), 1.98–2.05 (m, 2H), 2.77 (t, 2H, J=6.2 Hz), 3.95 (t, 2H, J=6.2 Hz), 4.09 (brs, 2H).

reactant | HCl | Cl | ClH
reactant | [1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 2.5 g | N=1C(=NN2C1C=CC=C2)N | C6H6N4
solvent | ethanol | 5.35 mL | C(C)O | C2H6O
solvent | ethanol | 72 mL | C(C)O | C2H6O
catalyst | Pd—C | 2.5 g | [Pd] | Pd
product | 5,6,7,8-Tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | N=1C(=NN2C1CCCC2)N | C6H10N4
